### PR TITLE
refactor(SimpleGraph/Residue): make residueAux well-founded to enable induction

### LINKED ISSUE #4413: residueAux is a partial def, blocking induction on residue
`FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Residue.lean` defines `residueAux` as a `partial def`:

```lean
partial def residueAux : List ℕ → ℕ
  | [] => 0
  | 0 :: s => 1 + s.length
  | s => residueAux (havelHakimiStep s)
```

A `partial def` generates no equation lemmas (no `.eq_def`, no `.induct`), so no property of `residue` can be proved by induction — including any conjecture about `residue`, or classical bounds such as Favaron's `R ≤ α`.

**Proposal:** convert `residueAux` to a well-founded `def` terminating on the list length, via a small helper `havelHakimiStep_length_cons : (havelHakimiStep (d :: rest)).length = rest.length`. This preserves the computed function and makes `residueAux.induct` / `.eq_def` available.

A PR implementing this will follow.

### PR DESCRIPTION
**Pull request by ChakshuGupta13**
Closes #4413

## What

Replaces `partial def residueAux` in
`FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Residue.lean` with a
well-founded `def` (terminating on the list length), via a new helper lemma
`havelHakimiStep_length_cons` (`(havelHakimiStep (d :: rest)).length = rest.length`).
The third match arm `| s =>` becomes `| d :: rest =>` so the recursive argument is
provably shorter. **The computed function is unchanged** (both `[]` and `0 :: _` are
caught by earlier arms, so the third arm fires only on `d :: rest`).

Also fixes a small docstring typo in `residue` ("G, ,i.e." → "G, i.e.").

## Why

A `partial def` generates no equation lemmas, so no property of `residue` can be
proved by induction. The well-founded definition auto-generates `residueAux.induct`
and `residueAux.eq_def`, which are prerequisites for proving anything about the
Havel–Hakimi residue — e.g. any `residue` conjecture, or classical bounds such as
Favaron's `R ≤ α`.

## Verification

- `lake build FormalConjecturesForMathlib` builds green and lint-clean.
- `#print axioms residueAux` = `[propext, Quot.sound]` (no `sorryAx`).
- `residueAux.induct` and `residueAux.eq_def` are now available.

### CODE REVIEW

File: FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Residue.lean [hunk 1]
```diff
@@ -50,18 +50,37 @@ def havelHakimiStep (s : List ℕ) : List ℕ :=
...
+`havelHakimiStep` drops the list length by exactly one on a nonempty list:
+`(havelHakimiStep (d :: rest)).length = rest.length`. `splitAt` partitions `rest`,
+and `map`, `++`, and `mergeSort` all preserve the total length while the head `d`
+is dropped. This is the termination measure for the well-founded `residueAux` below.
+-/
+theorem havelHakimiStep_length_cons (d : ℕ) (rest : List ℕ) :
+    (havelHakimiStep (d :: rest)).length = rest.length := by
+  simp only [havelHakimiStep, List.splitAt_eq, List.length_mergeSort,
+    List.length_append, List.length_map, List.length_take, List.length_drop]
+  omega
```
Comment (Paul-Lez) [inline FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Residue.lean]: Does `grind` (with a suitable set of lemmas provided) work here?

Comment (ChakshuGupta13) [reply FormalConjecturesForMathlib/Combinatorics/SimpleGraph/Residue.lean]: Yes — thanks, that reads much better. Switched to `grind [havelHakimiStep, List.length_mergeSort]` in 8291579.

`grind` unfolds `havelHakimiStep` and discharges the `min`/`take`/`drop` length arithmetic; the only hint it needs is `List.length_mergeSort` (the `append`/`map`/`take`/`drop` `length` simp lemmas are picked up automatically). The statement is unchanged, so `residueAux`’s `decreasing_by` is unaffected, and the module builds green.

**Review by Paul-Lez — APPROVED** [review]
thanks!
